US09210931B2
Step 3: Preparation of N-(2-Chloro-4-(pyridin-3-yl)-1H-imidazol-1-yl)acetamide (Compound 39)
To a solution of 2-Chloro-4-(pyridin-3-yl)-1H-imidazol-1-amine (30 mg, 0.15 mmol) and triethylamine (15 mg, 0.15 mmol) in dichloromethane (5 mL) was added acetyl chloride (12 mg, 0.15 mmol) at 0° C. The reaction mixture was stirred for 30 minutes at 0° C. The solvent was removed in vacuum and the residue was purified by prep-TLC (petroleum ether: ethyl acetate=1:2) to give the title compound (10 mg, 27%) as a yellow solid: mp 129-131° C.; 1H NMR (300 MHz, CDCl3) δ 10.69 (br, 1H), 8.81-8.80 (m, 1H), 8.44-8.43 (m, 1H), 8.02-8.00 (m, 1H), 7.33 (br s, 2H), 2.20 (s, 3H); ESIMS m/z 237 [(M+H)]+.

reactant | 2-Chloro-4-(pyridin-3-yl)-1H-imidazol-1-amine | 0.15 mmol, 30 mg | ClC=1N(C=C(N1)C=1C=NC=CC1)N | C8H7ClN4
reactant | triethylamine | 0.15 mmol, 15 mg | C(C)N(CC)CC | C6H15N
reactant | acetyl chloride | 0.15 mmol, 12 mg | C(C)(=O)Cl | C2H3ClO
solvent | dichloromethane | 5 mL | ClCCl | CH2Cl2
product | N-(2-Chloro-4-(pyridin-3-yl)-1H-imidazol-1-yl)acetamide | 10 mg, 27% | ClC=1N(C=C(N1)C=1C=NC=CC1)NC(C)=O | C10H9ClN4O
